US20010049385A1
At −78° C., a solution of dimethylsulphoxide (5.11 ml, 72 mmol) in DCM (50 ml) was added dropwise to a solution of oxalyl chloride (6.12 ml, 72 mmol) in DCM (150 ml). The reaction mixture was stirred for 10 min at −78° C. A solution of 2-phenoxyethanol (10.0 g, 72 mmol) in DCM (70 ml) was added dropwise. The reaction mixture was stirred at −78° C. for 10 min. A solution of triethylamine (50 ml, 360 mmol) in DCM (50 ml) was added dropwise. The reaction mixture was stirred for 10 min at −78° C. It was warmed to room temperature. The reaction mixture was washed with a 10% aqueous solution of sodium hydrogensulphate (2×200 ml) and subsequently with brine (2×200 ml). It was dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (100 g), using ethyl acetate/heptane (1:3) as eluent, to give 2.73 g of phenoxyacetaldehyde.

reactant | dimethylsulphoxide | 72 mmol, 5.11 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 72 mmol, 6.12 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-phenoxyethanol | 72 mmol, 10.0 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | triethylamine | 360 mmol, 50 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 70 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | phenoxyacetaldehyde | 2.73 g | O(C1=CC=CC=C1)CC=O | C8H8O2
